US07186729B2
(R)-3-(8-Chloro-1-ethyl-2-oxo-1,2,3,5-tetrahydro-benzo[e] [1,4]diazepin-4-yl)pyrrolidine-1-carboxylic acid tert-butyl ester
(R)-3-(8-Chloro-2-oxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl)pyrrolidine-1-carboxylic acid tert-butyl ester (0.258 g, 0.70 mmol) was dissolved in THF (7 mL) and cooled to 0° C. To the solution was added NaH (0.042 g, 1.0 mmol) and stirred for 15 min, followed by ethyl iodide (0.085 mL, 1.0 mmol). The solution was allowed to warm to room temperature slowly and stir at room temperature for 14 h. The reaction was quenched with water and extracted with EtOAc (3×). The organics were collected together dried over Mg2SO4, filtered and evaporated in vacuo, then purified by Biotage flash chromatography (75% ethyl acetate/25% ethyl acetate to 100% ethyl acetate) to yield the title compound (0.130 g, 47%). 1H-NMR (CDCl3): δ 1.16 (t, 3H), 1.43 (s, 9H), 1.75 (sextet, 1H), 2.18 (pentet, 1H), 3.05–3.9 (m, 1H), 7.20 (m, 3H). ESI-MS m/z: 394 (M+1), retention time 2.25.

reactant | (R)-3-(8-Chloro-2-oxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl)pyrrolidine-1-carboxylic acid tert-butyl ester | 0.70 mmol, 0.258 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)N1CC(NC2=C(C1)C=CC(=C2)Cl)=O | C18H24ClN3O3
reactant | NaH | 1.0 mmol, 0.042 g | [H-].[Na+]
reactant | ethyl iodide | 1.0 mmol, 0.085 mL | C(C)I | C2H5I
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | (R)-3-(8-Chloro-1-ethyl-2-oxo-1,2,3,5-tetrahydro-benzo[e] [1,4]diazepin-4-yl)pyrrolidine-1-carboxylic acid tert-butyl ester | 0.130 g, 47% | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)N1CC(N(C2=C(C1)C=CC(=C2)Cl)CC)=O | C20H28ClN3O3
